US06924284B2
5-tert-Butyloxycarbonylamino-N-hydroxy-1-methyl-1H-pyrazole-4-carboxamidine;
tert-Butyl [4-(N-Hydroxycarbamimidoyl)thiophen-2-yl]carbamate; tert-Butyl [5-(N-Hydroxycarbamimidoyl)-1-(2-trimethylsilylethoxymethyl)-1H-imidazol-4-yl]carbamate; tert-Butyl [4-(N-Hydroxycarbamimidoyl)-1-(2-trimethylsilylethoxymethyl)-1H-imidazol-5-yl]carbamate; tert-Butyl [4-(N-Hydroxycarbamimidoyl)-3-methylisoxazol-5-yl]carbamate; tert-Butyl [3-(N-Hydroxycarbamimidoyl)phenyl]carbamate; 3-Fluoro-N-hydroxy-4-methylbenzamidine; 2-Methyl-N-hydroxythiophene-3-carboxamidine; 2-Ethyl-N-hydroxythiophene-3-carboxamidine; 5-Ethanesulfonylamino-N-hydroxythiophene-3-carboxamidine; 3-[4-(N-Hydroxycarbamimidoyl)thiophen-2-yl]-1-isobutylurea; tert-butyl [5-(N-Hydroxycarbamimidoyl)-2-methylsulfanylthiazol-4-yl] carbamate; and 2-Chloro-N-hydroxyacetamidine.

reactant | tert-Butyl [4-(N-Hydroxycarbamimidoyl)thiophen-2-yl]carbamate | ONC(=N)C=1C=C(SC1)NC(OC(C)(C)C)=O | C10H15N3O3S
reactant | tert-Butyl [5-(N-Hydroxycarbamimidoyl)-1-(2-trimethylsilylethoxymethyl)-1H-imidazol-4-yl]carbamate | ONC(=N)C1=C(N=CN1COCC[Si](C)(C)C)NC(OC(C)(C)C)=O | C15H29N5O4Si
reactant | tert-Butyl [4-(N-Hydroxycarbamimidoyl)-1-(2-trimethylsilylethoxymethyl)-1H-imidazol-5-yl]carbamate | ONC(=N)C=1N=CN(C1NC(OC(C)(C)C)=O)COCC[Si](C)(C)C | C15H29N5O4Si
reactant | tert-Butyl [4-(N-Hydroxycarbamimidoyl)-3-methylisoxazol-5-yl]carbamate | ONC(=N)C=1C(=NOC1NC(OC(C)(C)C)=O)C | C10H16N4O4
reactant | tert-Butyl [3-(N-Hydroxycarbamimidoyl)phenyl]carbamate | ONC(=N)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C12H17N3O3
reactant | 3-Fluoro-N-hydroxy-4-methylbenzamidine | FC=1C=C(C(=N)NO)C=CC1C | C8H9FN2O
reactant | 2-Methyl-N-hydroxythiophene-3-carboxamidine | CC=1SC=CC1C(=N)NO | C6H8N2OS
reactant | 2-Ethyl-N-hydroxythiophene-3-carboxamidine | C(C)C=1SC=CC1C(=N)NO | C7H10N2OS
reactant | 5-Ethanesulfonylamino-N-hydroxythiophene-3-carboxamidine | C(C)S(=O)(=O)NC1=CC(=CS1)C(=N)NO | C7H11N3O3S2
reactant | 3-[4-(N-Hydroxycarbamimidoyl)thiophen-2-yl]-1-isobutylurea | ONC(=N)C=1C=C(SC1)NC(NCC(C)C)=O | C10H16N4O2S
reactant | 2-Chloro-N-hydroxyacetamidine | ClCC(=N)NO | C2H5ClN2O
product | 5-tert-Butyloxycarbonylamino-N-hydroxy-1-methyl-1H-pyrazole-4-carboxamidine | C(C)(C)(C)OC(=O)NC1=C(C=NN1C)C(=N)NO | C10H17N5O3
